US08735379B2
The methyl 5-(2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidoacetamido)-2-hydroxybenzoate (0.9 g, 1.7 mmol) was dissolved in THF (15 mL) and 1 N NaOH (8 mL). The reaction was stirred (50° C., 5 h), and then acidified to pH 3 with 2 N HCl. The product was extracted with ethyl acetate, and the combined organic extracts were washed with water, brine and dried over MgSO4. The crude material was purified by silica chromatography (0-5% MeOH/CH2Cl2) to afford 0.40 g of 5-(2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidoacetamido)-2-hydroxybenzoic acid as a yellow solid. [M+H]+=521.3. Mass calculated for C31H40N2O5=520.66. found: [M−H]+=519.2.

reactant | methyl 5-(2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidoacetamido)-2-hydroxybenzoate | 1.7 mmol, 0.9 g | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)NCC(=O)NC=1C=CC(=C(C(=O)OC)C1)O | C32H42N2O5
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | NaOH | 1 N, 8 mL | [OH-].[Na+]
product | 5-(2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidoacetamido)-2-hydroxybenzoic acid | 0.40 g | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)NCC(=O)NC=1C=CC(=C(C(=O)O)C1)O | C31H40N2O5
